US05162532
To a stirred solution of 2-iodo-3-quinolinecarboxaldehyde (595 mg, 2.10 mmol) in 40 mL of CH3OH at 0° C. was added NaBH4 (86 mg, 2.31 mmol), and the mixture was stirred at 0° C. for 30 min. After concentrating the mixture to approximately one-half of its original volume, water (30 mL) was added and the mixture was allowed to stand at 5° C. overnight. The solids were filtered and the crude product (570 mg, was recrystallized from methanol to give 3-hydroxymethyl-2-iodoquinoline (505 mg, 84%) as colorless needles: mp 189°-190° C. 1H NMR (300 MHz, CDCl3) δ 8.19 (s, 1H), 7.99 (d, 1H, J=9 Hz), 7.87 (d, 1H, J=9 Hz), 7.68 (m, 1H), 7.58 (t, 1H, J=9 Hz), 5.45 (t, 1H, J=6 Hz), 4.66 (d, 2H, J=6 Hz); IR (nujol) 3350, 1580, 1320, 1125, 1060, 995, 755, 720, cm-1.

reactant | 2-iodo-3-quinolinecarboxaldehyde | 2.10 mmol, 595 mg | IC1=NC2=CC=CC=C2C=C1C=O | C10H6INO
reactant | NaBH4 | 2.31 mmol, 86 mg | [BH4-].[Na+]
solvent | CH3OH | 40 mL | CO | CH4O
product | 3-hydroxymethyl-2-iodoquinoline | 505 mg, 84% | OCC=1C(=NC2=CC=CC=C2C1)I | C10H8INO
